US08278336B2
3-[4′-(5-fluoro-2,3-dihydroindole-1-carbonyl)-6′-methoxy-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one
A mixture of 0.633 g (2.30 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one, 0.700 mg (2.28 mmol) (2-chloro-6-methoxypyridin-4-yl)-(5-fluoro-2,3-dihydroindol-1-yl)-methanone and 954 mg (6.90 mmol) potassium carbonate in 5.0 mL NMP was stirred for 8 h at 130° C. After cooling the reaction mixture to RT the precipitate formed was filtered off and purified by preparative HPLC. The fractions containing the product were combined and evaporated down i. vac. The residue obtained was digested in DMF and the product remaining as a solid was suction filtered and dried i. vac. The mother liquor was again purified by preparative HPLC, the fractions containing product were combined and evaporated down i. vac. The residue was triturated with ethanol, the solid product was suction filtered and dried i. vac.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 2.30 mmol, 0.633 g | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | (2-chloro-6-methoxypyridin-4-yl)-(5-fluoro-2,3-dihydroindol-1-yl)-methanone | 2.28 mmol, 0.700 mg | ClC1=NC(=CC(=C1)C(=O)N1CCC2=CC(=CC=C12)F)OC | C15H12ClFN2O2
reactant | potassium carbonate | 6.90 mmol, 954 mg | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 5.0 mL | CN1CCCC1=O | C5H9NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[4′-(5-fluoro-2,3-dihydroindole-1-carbonyl)-6′-methoxy-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | FC=1C=C2CCN(C2=CC1)C(=O)C1=CC(=NC(=C1)OC)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O | C30H32FN5O4
